Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Epigastric Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ PMH significant for HTN, HLD,
presenting w/ epigastric pain that started last night. Patient
states that last night patient had had epigastric pain that was
not worse with ambulation but worse with pressure and with
breathing in deeply. Patient states that this is gotten better
throughout the day and denies any exertional symptoms. Patient
denies any hemoptysis, recent travel, malignancy or family
history of blood clots. Patient has not had a stress test in the
past.

In the ED...
- Initial vitals:
Pain 4 Temp 96.9 HR 119 BP 163/109 RR 18 pO2 97% RA
 
- Exam:
GA: Comfortable
HEENT: No scleral icterus
Cardiovascular: Normal S1, S2, regular rate and rhythm, no
murmurs/rubs/gallops, 2+ peripheral pulses bilaterally
Pulmonary: Clear to auscultation bilaterally
Abdominal: Soft, nontender, nondistended, no masses
Extremities: No lower leg edema
Integumentary: No rashes noted

- EKG: Sinus, normal axis, normal intervals. Biphasic T waves in
the lateral leads concerning for ischemia

- Labs/studies notable for:
Trop-T: negative
WBC 10.6
UA bland
D-dimer: 498

- Patient was given:
___ 17:26 PO Aspirin 324 mg 
___ 18:42 IVF  NS  1 L
___ 19:58 PO/NG Levothyroxine Sodium 50 mcg 
___ 19:58 PO/NG amLODIPine 10 mg 
___ 19:58 PO/NG Lisinopril 10 mg 

- Vitals on transfer:
HR 107 BP 113/81 RR 22 pO2 97% RA 
 
On the floor the patient endorses the history per above. The
patient further elaborated that he was at he was a holiday party
and had ___ drinks, went to bed, and woke up with severe
epigastric pain very similar to the GERD sx's in his past. He 
has
also had an ulcer in the past but denies any endoscopy history.
He tasted acid in the back of his throat today. He stopped 
taking
prescribed anti-acids for years and only takes OTC antiacids 
prn.
He had regular check-up for his heart in the past because he was
in a motor vehicle collision and had a resulting arrhythmia (pt
could not characterize) which resolved on its own. On interview,
the patient says that his pain got much better since it first
started but continued to have residual ___ until now.
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Hypertension
- Dyslipidemia

2. CARDIAC HISTORY
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- Cardiac arrhythmia s/p motor vehicle collision

3. OTHER PAST MEDICAL HISTORY
Hypothyroidism
Calcific shoulder tendinitis
Neck fracture
 
Social History:
___
Family History:
Mother  ___ - Type II; Hypertension; breast cancer[Other]
[OTHER]; pancreatitis[Other] [OTHER] 
Sister  ___ 
 
Physical ___:
ADMISSION PHYSICAL EXAMINATION:
============================
VS: 97.8 PO 115 / 79 R Lying 95 18 95 RA 
GENERAL: Well-appearing man, not in acute distress, lying back 
in
bed
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants to
light and deep palpation, no rebound/guarding, no
hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM
=======================
GENERAL: WDWN adult man sitting in bed
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no JVP elevation
CV: RRR, normal S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no increased work of breathing
GI: soft, non-tender, non-distended, normoactive BS
EXTREMITIES: warm, DP pulses 2+ bilaterally, no edema
NEURO: A&Ox3, CN grossly intact, spontaneously moving all 
extremities
 
Pertinent Results:
ADMISSION LABS
=============
___ 04:39PM BLOOD WBC-10.6* RBC-5.25 Hgb-15.3 Hct-45.7 
MCV-87 MCH-29.1 MCHC-33.5 RDW-14.2 RDWSD-44.9 Plt ___
___ 04:39PM BLOOD Neuts-65.7 ___ Monos-8.9 Eos-2.8 
Baso-0.7 Im ___ AbsNeut-6.98* AbsLymp-2.28 AbsMono-0.95* 
AbsEos-0.30 AbsBaso-0.07
___ 04:39PM BLOOD ___ PTT-26.7 ___
___ 04:39PM BLOOD Plt ___
___ 04:39PM BLOOD D-Dimer-498
___ 04:39PM BLOOD Glucose-105* UreaN-8 Creat-1.0 Na-136 
K-3.8 Cl-102 HCO3-22 AnGap-12
___ 04:39PM BLOOD ALT-99* AST-69* LD(___)-238 AlkPhos-71 
TotBili-1.0
___ 04:39PM BLOOD Lipase-12
___ 04:39PM BLOOD cTropnT-0.01
___ 04:39PM BLOOD Albumin-4.4
___ 06:45PM URINE Color-Straw Appear-Clear Sp ___
___ 06:45PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-TR* Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 06:45PM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

DISCHARGE LABS
==============
___ 07:25AM BLOOD WBC-8.5 RBC-5.09 Hgb-14.8 Hct-44.5 MCV-87 
MCH-29.1 MCHC-33.3 RDW-14.3 RDWSD-45.4 Plt ___
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD ___ PTT-25.6 ___
___ 07:25AM BLOOD Glucose-100 UreaN-9 Creat-1.0 Na-138 
K-4.2 Cl-104 HCO3-22 AnGap-12
___ 09:08AM BLOOD ALT-72* AST-42*
___ 02:15AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:25AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.9
___ 09:08AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG

IMAGING
=======
CHEST X RAY (___)
FINDINGS: 
 
There is mild prominence of the interstitial markings as well as 
___
B-lines is most consistent with mild interstitial edema.  No 
evidence of
pneumonia. Streaky opacities at the right greater than left lung 
bases are
favored to represent atelectasis.  There is no pulmonary edema, 
large pleural
effusion or pneumothorax.  Cardiomediastinal silhouette is at 
the upper limit
of normal.
 
IMPRESSION: 
 
Mild interstitial edema.

MICROBIOLOGY
=============
___ 6:45 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Key Information for Outpatient Providers:Mr. ___ is 
a ___ PMH significant for HTN, HLD, presented with epigastric 
pain.

# CORONARIES: no cath on file
# PUMP: no recent on file
# RHYTHM: sinus

ACTIVE ISSUES
=================
#Epigastric pain: 
Patient presented with two days of severe epigastric pain. Pain 
initially upper abdominal, band-line, non-exertional, worse with 
laying flat. Described as primarily bloating/pressure, which 
felt like it was pressing up against his chest and making it 
more difficult to take a deep breath. On arrival, EKG notable 
for diffuse TWI increased from prior EKG, patient admitted for 
cardiac rule-out. Got ASA 324 x1. Troponins negative x2, TWI 
likely ___ LVH as EKG meets voltage criteria and patient has 
history of HTN, low suspicion for unstable angina. No 
arrhythmias on telemetry, occasional sinus tachycardia likely 
___ pain. No indication for inpatient stress, but given hx of 
HTN with EKG suggestive of LVH, plan for outpatient stress TTE 
for functional assessment. Low suspicion for PE given normal 
SaO2 and negative D-Dimer (Wells score 1.5 on admission for 
sinus tachycardia). Overall clinical history suggestive of GERD 
vs PUD. Abdominal symptoms in setting of recent alcohol 
consumption (patient went to ___ party). Patient reported 
darker BM x1 prior to admission, which he attributed to drinking 
Guinness night before, subsequent ___ normal color, Hgb WNL. 
Otherwise no melena or hematochezia. Lipase WNL, low suspicion 
for pancreatitis. Mild transaminitis on admission, but low 
suspicion for hepatobiliary etiology of pain (see below). With 
respect to work-up and management of GERD vs PUD, started 
empirically on H2 blocker for GERD(avoided PPI given plan for 
stool H. pylori antigen testing). Unable to obtain stool guiac 
or sample for stool H. pylori antigen prior to discharge. 
Patient remaining clinically well and pain-free at time of 
discharge with plan for outpatient follow-up. 

#Transaminitis:
On admission labs notable for AST 66, ALT 99. Bilirubin and Alk 
Phos WNL. Hep B, Hep C negative. 

#Leukocytosis (mild): 
WBC at borderline upper limit of normal on admission (10.6). No 
infectious symptoms reported. UA and CXR negative for infection. 
WBC within normal limits on re-check at 8.5.

#Hypertension
Continued home amlodipine, lisinopril.

CHRONIC ISSUES
=================
#Hypothyroidism
Continued home levothyroxine.

TRANSITIONAL ISSUES
[ ] Follow-up pending inpatient culture data, Hep C viral load, 
AST/ALT
[ ] Outpatient stress TTE given probable LVH
[ ] Check lipid panel, consider starting statin for primary 
prevention if indicated
[ ] Consider H. pylori testing, stool guiac. If either is 
positive would consider EGD.

New Medications:
Ranitidine 150MG BID
Changed Medications: None
Held Medications: None
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth Twice daily Disp 
#*60 Tablet Refills:*1 
2.  amLODIPine 10 mg PO DAILY  
3.  Levothyroxine Sodium 50 mcg PO DAILY  
4.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
GERD

SECONDARY DIAGNOSIS
====================
HTN
Possible LVH
Transaminitis
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had changes on 
your EKG in the setting of upper abdominal pain.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- Your blood tests showed no evidence of a heart attack or 
damage to your heart.
- Cardiac monitoring showed no evidence of irregular heartbeats.
- Your EKG was suggestive of enlargement (hypertrophy) of the 
heart muscle, and you were referred for outpatient stress 
testing.
- You were given medication for acid reflux.

WHAT SHOULD I DO WHEN I GO HOME?
- Schedule an appointment with your primary care doctor.
- Follow-up on scheduling of a stress test as an outpatient.
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___